US05925667
1-ethyl-2-(3,5-diprenyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 3,5-diprenyloxybenzoic acid (1.45 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 0.78 g (39%) of the aimed compound. 1H-NMR (CDC13)δ: 6.94(2H, d, J=2.4 Hz), 6.61(1H, t, J=2.4 Hz), 5.49(1H, t, J=5.4 Hz), 4.51(4H, d, J=6.8 Hz), 3.28-3.13(1H, m), 2.95-2.81(1H, m), 2.16-2.54(1H, m), 2.33-2.22(1H, m), 2.20-2.00(4H, m), 1.98-1.86(1H, m), 1.79(6H, s), 1.74(6H, s), 1.12(3H, t, J=7.3 Hz).

reactant | 3,5-diprenyloxybenzoic acid | 1.45 g | C(C=C(C)C)OC=1C=C(C(=O)O)C=C(C1)OCC=C(C)C | C17H22O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(3,5-diprenyloxybenzoylaminomethyl)pyrrolidine | 0.78 g, 39% | C(C)N1C(CCC1)CNC(C1=CC(=CC(=C1)OCC=C(C)C)OCC=C(C)C)=O | C24H36N2O3
